US07335660B2
d) (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide
(1S)-1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide (1 g, 2.98 mmol) was dissolved in a mixture of acetic acid (10 mL) and water (5 mL), then stirred for 2 h. The solution was evaporated to give a residue that was dried in vacuo at 55° C. to give the title compound as a white solid.

reactant | (1S)-1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide | 2.98 mmol, 1 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C18H29NO3Si
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide | OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C12H15NO3
